US06562811B1
With the use of the starting compound 1G and tert-butyl 4-formyl piperidine-1-carboxylic acid, tert-butyl 4-(2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl)-3-formyl-4-pyridinyl)-1-piperidinecarboxylate was prepared in a similar manner as that of the step (1) of Example 25-2. To a solution of tert-butyl 4-(2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-3-formyl-4-pyridinyl)-1-piperidinecarboxylate (0.400 g, 0.681 mmol) in ethyl alcohol (5.0 mL) was added ethyl malonate monoamine (1.780 g, 13.612 mmol) and piperidine (0.580 g, 6.806 mmol). The mixture was refluxed 12 hrs. The reaction mixture was extracted with ethyl acetate and water. The separated organic phase was washed with NaHCO3 and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The resulting residue (liquid) was purified by column chromatography on silica gel (hexane/ethyl acetate=1/1 and ethylacetate 100%) to give tert-butyl 4-(6-(aminocarbonyl)-2-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-7-oxo-7,8-dihydro-1,8-naphthyridin-4-yl)-1-piperidinecarboxylate as a yellow form. (0.455 g, yield; quant.)

reactant | tert-butyl 4-formyl piperidine-1-carboxylic acid | C(C)(C)(C)C1N(CCC(C1)C=O)C(=O)O | C11H19NO3
reactant | tert-butyl 4-(2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl)-3-formyl-4-pyridinyl)-1-piperidinecarboxylate | NC1=NC(=CC(=C1C=O)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1 | C34H41N3O6
reactant | tert-butyl 4-(2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-3-formyl-4-pyridinyl)-1-piperidinecarboxylate | 0.681 mmol, 0.400 g | NC1=NC(=CC(=C1C=O)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1 | C34H41N3O6
reactant | piperidine | 6.806 mmol, 0.580 g | N1CCCCC1 | C5H11N
reactant | ethyl alcohol | 5.0 mL | C(C)O | C2H6O
product | tert-butyl 4-(6-(aminocarbonyl)-2-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-7-oxo-7,8-dihydro-1,8-naphthyridin-4-yl)-1-piperidinecarboxylate | NC(=O)C1=CC=2C(=CC(=NC2NC1=O)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C37H42N4O7
